US05756422
B1. Ethyl (RS)-4-(5-chloroquinoline-8-yloxy)-3-dimethylaminobutanoate (Table 1, Example 74)
A mixture of 5.8 g (20 mmol) of ethyl (E)-4-(5-chloroquinoline-8-yloxy)-2-butenoate, 20 ml of a 60% solution of dimethylamine in water and 0.34 g (1.0 mmol) of tetrabutylammonium hydrogen sulfate in 50 ml of dichloromethane, 40 ml of water and 10 ml of 2N sodium hydroxide solution was allowed to stand for two days at room temperature. The organic phase was separated off, and the aqueous phase was extracted twice using dichloromethane. After drying over magnesium sulfate, the solvent was stripped off in vacuo and the residue obtained was chromatographed on silica gel (ethyl acetate:heptane 7:3; followed by ethyl acetate). 1.0 g (15%) of the title compound was obtained as an oil.

reactant | ethyl (E)-4-(5-chloroquinoline-8-yloxy)-2-butenoate | 20 mmol, 5.8 g | ClC1=C2C=CC=NC2=C(C=C1)OC/C=C/C(=O)OCC | C15H14ClNO3
reactant | dimethylamine | CNC | C2H7N
reactant | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
solvent | water | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 1.0 mmol, 0.34 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 40 ml | O | H2O
product | Ethyl (RS)-4-(5-chloroquinoline-8-yloxy)-3-dimethylaminobutanoate | 1.0 g, 15% | ClC1=C2C=CC=NC2=C(C=C1)OCC(CC(=O)OCC)N(C)C | C17H21ClN2O3
